US07994171B2
1-(pyridazin-3-yl)cyclopropanamine hydrochloride.
To a solution of tert-butyl 1-(pyridazin-3-yl)cyclopropylcarbamate (0.3 g) in THF (3 ml) at 0° C. was added HCl in dioxane (5 ml) and the mixture stirred at r.t. for 3 hr. The reaction mixture was concentrated, and the crude product was taken for the next coupling reaction. Yield: 0.21 g

reactant | tert-butyl 1-(pyridazin-3-yl)cyclopropylcarbamate | 0.3 g | N1=NC(=CC=C1)C1(CC1)NC(OC(C)(C)C)=O | C12H17N3O2
reactant | HCl | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1-(pyridazin-3-yl)cyclopropanamine hydrochloride | Cl.N1=NC(=CC=C1)C1(CC1)N | InChI=1S/C7H9N3.ClH/c8-7(3-4-7)6-2-1-5-9-10-6;/h1-2,5H,3-4,8H2;1H
